**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET CPM3-1200-0016A Spice Library
****	Version 1    Date: 05-24-2019
****	
***********************************************************
****	Revision record
****	Version 1	initial Release
****	
*********************************************************************************
****Parasitics Excluded
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S = Source
***********************************************************


.subckt CPM3-1200-0016A d g s Tj
.param Rgint = 2.6

xgmos	d3 d1 g1 s1 Tj gmos_CPM3-1200-0016A


RS		s	s1	1u

R_g 		g1	g2	{Rgint}
RG		g	g2	1u

Rd		d	d3	1u


Ed	Id	0	value {I(Vdrain_s)}
Rdd	Id	0	1E6

vdrain_s	d3	d1	0

Gheat		0	Tj	value = {abs((V(d1,s)*v(Id)))+abs((V(g1,g2)*V(g1,g2)/Rgint))}

xCGD		d3	g1	cgdmos_CPM3-1200-0016A
CGS		g1	s1	6072p
D1		s1	d1	bodydiode_CPM3-1200-0016A
xCDS		d3	s1	cds_CPM3-1200-0016A

.ends CPM3-1200-0016A

*****************************************

.subckt gmos_CPM3-1200-0016A d3 d1 g1 s1 Tj

e1		NET1	0	Value {((-255.2u*V(Tj)**2+37.84m*V(Tj)-1.62)*(V(gk,s1)**3)+
+					(6.641m*V(Tj)**2-918.8m*V(Tj)+63.82)*(V(gk,s1)**2)+
+					(-53.83m*V(Tj)**2+6.374*V(Tj)-674.9)*v(gk,s1)+
+					(112.1m*V(Tj)**2-9.35*V(Tj)+3313))/1000
+					}
R_a		NET1	0 	1E6

e2		NET2	0	Value {15.35m*V(gk,s1)+371.85m}
R_B		NET2	0 	1E6

e3		NET3	0	Value {7u*(V(Tj)**2)-4.9m*V(Tj)+2.6921}
R_C		NET3	0 	1E6

e4		NET4	0	Value {limit(1.0792u*V(Tj)**2-267.818u*V(Tj)+19.598m,0.005,0.055)}
R_d		NET4	0 	1E6


e5		NET5	0	value {limit(((-8.8626u*V(Tj)**2+949.06u*V(Tj)+66.453m)*(V(gk,s1)**4)+
+					(300.23u*V(Tj)**2-30.28m*V(Tj)-2.2707)*(V(gk,s1)**3)+
+					(-3.0829m*V(Tj)**2+302.99m*V(Tj)+24.562)*(V(gk,s1)**2)+
+					(8.5352m*V(Tj)**2-1.282*V(Tj)-112.69)*v(gk,s1)+
+					(3.4075m*V(Tj)**2+4.6265*V(Tj)+561.01)),63,1200)/1000
+					}
R_e		NET5	0 	1E6


e10		NET10   0	Value {Limit(((-354.3u*V(Tj)**2+76.423m*V(Tj)-1.064)*(V(ge,s1)**3)+
+					(12.427m*V(Tj)**2-2.659*V(Tj)+35.5723)*(V(ge,s1)**2)+
+					(-140.3m*V(Tj)**2+29.81*V(Tj)-398.2)*v(ge,s1)+
+					(505.64m*V(Tj)**2-107.4*V(Tj)+1671.3))/1000,0,1)
+				      }
R_K		NET10	0	1E6

.param p10  = 0.0011
.param p11 = -8
.param p12 = 19
.param p13 = 15


e_p8	P8	0	Value {Limit(((-250u*V(Tj)**2+40.47m*V(Tj)-52.02m)*(V(gk,s1)**2)+
+					(4.891m*V(Tj)**2-857.4m*V(Tj)+17.85)*v(gk,s1)+
+					(-21.68m*V(Tj)**2+3.968*V(Tj)-92.09))/1000,0.001,1)
+					}
R_R	P8	0 	1E6

R100 gk s1	1E6
E100 gk s1 	value {limit(V(g1,s1),p11,p12)}

R101 ge s1	1E6
E101 ge s1 	value {limit(V(g1,s1),p11,p13)}

********************************
G1 d1 s1 value {
+	if(V(s1,d3)<0,
+		0
+		,
+		if (V(gk,s1)<V(NET3) ,
+		-((0.035)*(v(gk,s1)-V(NET3)))*(-(1+p10*v(s1,d3))*0.008)*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(0.854*v(s1,d3)))))**2))
+		,
*+		0
+		-((((v(NET5)+v(NET4))*(v(gk,s1)-V(NET3))))*(1+v(P8)*v(s1,d3))*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(V(NET2)*v(s1,d3)*((1+exp(-v(NET10)*v(s1,d3)))**v(NET1))))))**2)))
+		)
+			)
+			}
G2 d1 s1 value {
+	if(V(d3,s1)<0,
+		0
+		,
+		if (V(gk,s1)<V(NET3) ,
+		((0.035)*(v(gk,s1)-V(NET3)))*(-(1+p10*v(d3,s1))*0.008)*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(0.854*v(d3,s1)))))**2))
+		,
+		((v(NET5)*(v(gk,s1)-V(NET3))))*(1+v(P8)*v(d3,s1))*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(V(NET2)*v(d3,s1)*((1+exp(-v(NET10)*v(d3,s1)))**v(NET1))))))**2))
+		)
+			)
+			}


.ends gmos_CPM3-1200-0016A

****************************************

.subckt cgdmos_CPM3-1200-0016A d3 g1
.param k1=2565p
.param k2=0.5
.param ka=70
.param kb=0.3
.param kc=4.03
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d3,g1),0,600))*(1+ka*(1+TANH(kb*V(d3,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d3))
+			}
R_CGD d1 d3 1E-4
.ends cgdmos_CPM3-1200-0016A


.subckt cds_CPM3-1200-0016A d3 s1

.param Cjo = 5180p
.param Vj  = 4.4365
.param M   = 0.643

G12 d1 s1 value {
+	if(V(d3,s1)>0,
+		(Cjo/(1+(limit(v(d3,s1),0,580)/Vj)**M))*ddt(v(d3,s1));
+		,
+		0
+			)
+			}

R_CDS d1 d3 1E-4

.ends cds_CPM3-1200-0016A

****************************************
.model bodydiode_CPM3-1200-0016A d(is=400n bv=1590 EG=5.5 n=8.5
+	rs=0.0115  trs1=0.0005  trs2=-0.000011 Tnom=25
+	tt=1.5n ibv=500u Xti=0.13 level=1)