**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET CPM3-1200-0021A Spice Library
****	Version 1    Date: 08-17-2019
****	
***********************************************************
****	Revision record
****	Version 1	initial Release
****	
*********************************************************************************
****Parasitics Excluded
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S = Source
***********************************************************


.subckt CPM3-1200-0021A d g s Tj
.param Rgint = 3.3

xgmos	d3 d1 g1 s1 Tj gmos_CPM3-1200-0021A


RS		s	s1	1u

R_g 		g1	g2	{Rgint}
RG		g	g2	1u

Rd		d	d3	1u


Ed	Id	0	value {I(Vdrain_s)}
Rdd	Id	0	1E6

vdrain_s	d3	d1	0

Gheat		0	Tj	value = {abs((V(d1,s1)*v(Id)))+abs((V(g1,g2)*V(g1,g2)/Rgint))}

xCGD		d3	g1	cgdmos_CPM3-1200-0021A
CGS		g1	s1	4806p
D1		s1	d1	bodydiode_CPM3-1200-0021A
xCDS		d3	s1	cds_CPM3-1200-0021A

.ends CPM3-1200-0021A

*****************************************

.subckt gmos_CPM3-1200-0021A d3 d1 g1 s1 Tj

e1		NET1	0	Value {((925.2u*V(Tj)**2-0.1998*V(Tj)+22.12)*(V(gk,s1)**2)+
+					(-23.03m*V(Tj)**2+4.789*V(Tj)-433.7)*v(gk,s1)+
+					(0.1278*V(Tj)**2-27.43*V(Tj)+3136))/1000
+					}
R_a		NET1	0 	1E6

e2		NET2	0	Value {15.35m*V(gk,s1)+371.85m}
R_B		NET2	0 	1E6

e3		NET3	0	Value {10u*(V(Tj)**2)-5.5m*V(Tj)+2.6226}
R_C		NET3	0 	1E6

e4		NET4	0	Value {limit(-48.935n*V(Tj)**2-122.154u*V(Tj)+22.895m,0,0.055)}
R_d		NET4	0 	1E6

e5		NET5   0	Value {
+					if (V(gk,s1)>=11 ,
+				((-32.529n*V(Tj)**4+6.5711u*V(Tj)**3+163.36u*V(Tj)**2-81.356m*V(Tj)+2.3922)*V(gk,s1)**3+
+				(1.4566u*V(Tj)**4-288.78u*V(Tj)**3-8.9357m*V(Tj)**2+3.7329*V(Tj)-72.624)*V(gk,s1)**2+
+				(-21.67u*V(Tj)**4+4.1989m*V(Tj)**3+0.16242*V(Tj)**2-56.681*V(Tj)+334.09)*v(gk,s1)+
+				(105.74u*V(Tj)**4-19.769m*V(Tj)**3-1.0083*V(Tj)**2+282.8*V(Tj)+4337.8))/10000
+					,
+				Limit(((306.5n*V(Tj)**4-105.2u*V(Tj)**3+11.45m*V(Tj)**2-32.17m*V(Tj)-89.83)*(V(gk,s1)**2)+
+				(-7.787u*V(Tj)**4+2.409m*V(Tj)**3-0.2116*V(Tj)**2-5.491*V(Tj)+1590)*v(gk,s1)+
+				(49.54u*V(Tj)**4-13.73m*V(Tj)**3+0.8681*V(Tj)**2+67.42*V(Tj)-4253))/10000,0.001,1)
+			)
+			}
R_e		NET5	0 	1E6


e10		NET10   0	Value {Limit(((46.07u*V(Tj)**2-10.44m*V(Tj)+1.42)*(V(gk,s1)**3)+
+					(-1.735m*V(Tj)**2+0.3991*V(Tj)-47.6)*(V(gk,s1)**2)+
+					(22.57m*V(Tj)**2-5.049*V(Tj)+486.1)*v(gk,s1)+
+					(-0.1012*V(Tj)**2+21.11*V(Tj)-1362))/1000,0,1)
+				      }
R_K		NET10	0	1E6

.param p10  = 0.0011
.param p11 = -8
.param p12 = 19


e_p8	P8	0	Value {Limit(((23.5u*V(Tj)**2-2.112m*V(Tj)-0.5059)*(V(gk,s1)**2)+
+					(-674.6u*V(Tj)**2+61.57m*V(Tj)+15.17)*v(gk,s1)+
+					(5.816m*V(Tj)**2-0.7002*V(Tj)-57.07))/1000,0.001,1)
+					}
R_R	P8	0 	1E6
R_R	P8	0 	1E6

R100 gk s1	1E6
E100 gk s1 	value {limit(V(g1,s1),p11,p12)}


********************************
G1 d1 s1 value {
+	if(V(s1,d3)<0,
+		0
+		,
+		if (V(gk,s1)<V(NET3) ,
+		-((0.035)*(v(gk,s1)-V(NET3)))*(-(1+p10*v(s1,d3))*0.008)*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(0.854*v(s1,d3)))))**2))
+		,
*+		0
+		-((((v(NET5)+v(NET4))*(v(gk,s1)-V(NET3))))*(1+v(P8)*v(s1,d3))*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(V(NET2)*v(s1,d3)*((1+exp(-v(NET10)*v(s1,d3)))**v(NET1))))))**2)))
+		)
+			)
+			}
G2 d1 s1 value {
+	if(V(d3,s1)<0,
+		0
+		,
+		if (V(gk,s1)<V(NET3) ,
+		((0.035)*(v(gk,s1)-V(NET3)))*(-(1+p10*v(d3,s1))*0.008)*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(0.854*v(d3,s1)))))**2))
+		,
+		((v(NET5)*(v(gk,s1)-V(NET3))))*(1+v(P8)*v(d3,s1))*(((log(1+exp(v(gk,s1)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s1)-V(NET3)-(V(NET2)*v(d3,s1)*((1+exp(-v(NET10)*v(d3,s1)))**v(NET1))))))**2))
+		)
+			)
+			}


.ends gmos_CPM3-1200-0021A

****************************************

.subckt cgdmos_CPM3-1200-0021A d3 g1

.param k1=1810p
.param k2=0.475
.param ka=80
.param kb=0.5
.param kc=6

G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d3,g1),0,468))*(1+ka*(1+TANH(kb*V(d3,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d3))
+			}
R_CGD d1 d3 1E-4
.ends cgdmos_CPM3-1200-0021A


.subckt cds_CPM3-1200-0021A d3 s1

.param Cjo = 3835p
.param Vj  = 3
.param M   = 0.615


G12 d1 s1 value {
+	if(V(d3,s1)>0,
+		(Cjo/(1+(limit(v(d3,s1),0,490)/Vj)**M))*ddt(v(d3,s1));
+		,
+		0
+			)
+			}

R_CDS d1 d3 1E-4

.ends cds_CPM3-1200-0021A

****************************************
.model bodydiode_CPM3-1200-0021A d(is=200n bv=1590 EG=5.4 n=8.4
+	rs=0.013  trs1=-1.75m  trs2=14u Tnom=25
+	tt=3n ibv=500u Xti=10 level=1)